US09102591B2
2-Chloro-N-[[4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl]methyl]benzamide
From 2-chlorobenzoic acid and C-[4,4-difluoro-1-(2-methyl-pyrimidin-5-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=380.1, tR (minutes, Method F)=2.37

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | C-[4,4-difluoro-1-(2-methyl-pyrimidin-5-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=NC1)C)CN)F | C12H17F2N3
product | 2-Chloro-N-[[4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl]methyl]benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=NC2)C)C=CC=C1 | C19H20ClF2N3O
